US06320050B1
A solution of diisopropylamine (3.4 mL, 24.38 mmol) in dry tetrahydrofuran (21 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (7 mL) was cooled to −78° C. under nitrogen and then treated with a 2.5M solution of n-butyllithium in hexanes (9.8 mL, 24.38 mmol). The resulting reaction mixture was stirred at −78° C. for 30 min and then treated dropwise with a solution of (3-bromo-4-methylsulfanyl-phenyl)-acetic acid methyl ester (6.10 g, 22.17 mmol) in dry tetrahydrofuran (21 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (7 mL). The resulting reaction mixture was allowed to stir at −78° C. for 1 h, at which time, a solution of iodomethylcyclopentane (5.59 g, 26.60 mmol) in a small amount of dry tetrahydrofuran was added dropwise. The reaction mixture was allowed to warm to 25° C. where it was stirred for 15 h. The reaction mixture was quenched with water (300 mL) and then concentrated in vacuo to remove tetrahydrofuran. The remaining aqueous phase was extracted with ethyl acetate (3×150 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×200 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 19/1 hexanes/ethyl acetate) afforded 2-(3-bromo-4-methylsulfanyl-phenyl)-3-cyclopentyl-propionic acid methyl ester (4.52 g, 57%) as a light yellow oil: EI-HRMS m/e calcd for C16H21BrO2S (M+) 356.0446, found 356.0435.

reactant | diisopropylamine | 24.38 mmol, 3.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | (3-bromo-4-methylsulfanyl-phenyl)-acetic acid methyl ester | 22.17 mmol, 6.10 g | COC(CC1=CC(=C(C=C1)SC)Br)=O | C10H11BrO2S
reactant | iodomethylcyclopentane | 26.60 mmol, 5.59 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran | 21 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 7 mL | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | tetrahydrofuran | 21 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 7 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-(3-bromo-4-methylsulfanyl-phenyl)-3-cyclopentyl-propionic acid methyl ester | 4.52 g, 57% | COC(C(CC1CCCC1)C1=CC(=C(C=C1)SC)Br)=O | C16H21BrO2S
